US07094801B2
{4-[3E-(5-Benzo[b]thiophen-2-yl-2,4-dimethoxy-phenyl)-acryloyl]-phenylthio}-acetic acid
The title compound was prepared by condensing (4-acetylphenylthio)acetic acid (Ex-23B) and 5-(benzo[b]thien-2-yl)-2,4-dimethoxybenzaldehyde (Ex-3A) in a similar manner as described in Ex-22. Yellow solid, mp 136–138° C. (dec.). 1H-NMR (DMSO-d6) δ 8.35 (s, 1H), 8.08 (d, J=7.4 Hz, 2H), 8.03 (d, J=16.3 Hz, 1H), 7.93–7.87 (m, 3H), 7.82 (d, J=7.0 Hz, 1H), 7.42 (d, J=7.9 Hz, 2H), 7.37–7.27 (m, 2H), 6.85 (s, 1H), 4.02 (s, 3H), 3.99 (s, 3H), 3.93 (s, 2H). MS m/z=491 ([M+H]+, 100%).

reactant | (4-acetylphenylthio)acetic acid | C(C)(=O)C1=CC=C(C=C1)SCC(=O)O | C10H10O3S
reactant | 5-(benzo[b]thien-2-yl)-2,4-dimethoxybenzaldehyde | S1C2=C(C=C1C=1C(=CC(=C(C=O)C1)OC)OC)C=CC=C2 | C17H14O3S
product | {4-[3E-(5-Benzo[b]thiophen-2-yl-2,4-dimethoxy-phenyl)-acryloyl]-phenylthio}-acetic acid | S1C2=C(C=C1C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C=C1)SCC(=O)O)OC)OC)C=CC=C2 | C27H22O5S2
